US06680316B1
Preparation of 5,6-bis(4-Methoxyphenyl)-4-cyano2-ethyl-2H-pyridazin-3-one
Using 5,6-bis(4-methoxyphenyl)-4-cyano-2H-pyridazin-3-one and ethyl iodide as starting materials, the procedures of Example 1 were repeated likewise, whereby the title compound was obtained in a yield of 76.8%.

reactant | 5,6-bis(4-methoxyphenyl)-4-cyano-2H-pyridazin-3-one | COC1=CC=C(C=C1)C1=C(C(NN=C1C1=CC=C(C=C1)OC)=O)C#N | C19H15N3O3
reactant | ethyl iodide | C(C)I | C2H5I
product | 5,6-bis(4-Methoxyphenyl)-4-cyano2-ethyl-2H-pyridazin-3-one | yield of 76.8% | COC1=CC=C(C=C1)C1=C(C(N(N=C1C1=CC=C(C=C1)OC)CC)=O)C#N | C21H19N3O3
